Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
breakthrough seizures
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ previously
right handed man with a medically refractory seizure disorder
after a severe open head trauma in ___.

He has been admitted twice recently.  Once for transition from
Keppra for Vimpat - ___ - ___.  Keppra "took him to a
dark, dark place, like he was the devil", his mother tells us. 
She felt that Keppra was affecting his mood.  He was discharged
home with only one subclinical electographic seizure with Vimpat
as replacement for Keppra, remaining on prior doses of Trileptal
and Zonegran. 

He represented after a cluster of events in the context of
vomiting after taking medications on ___ via ___,
staying until ___.  It was felt that nausea was caused by 
the
medications, likely Vimpat, that this resulted in vomiting and 
he
then seized owing to lower AED levels.  There were no events
during this admission.  Of note, he needed to take the Vimpat at
bed time and the other meds a little earlier to tolerate all
medications in the evening, his mother explains.  He is now
tolerating medications well and she thinks that they could now
all be given together.

He had one complex partial (semiologic type 1 below) event
immediately after discharge on the ___, then another 
unwitnessed
event on the ___.  On this occasion he seemed
particularly dreamy with slower than usual speech, only saying
yes.  He also came downstairs with only his socks on - 
apparently
completely unlike this typically well-shod young man.  

Today he was sitting eating lunch with an adjustable table.  His
mother heard loud sounds from the kitchen and ran to see both
arms and legs with convulsive movements and a rattling lunch
table in the living room.  The seizure lasted for five minutes
and spontaneously broke, after which he was difficult to arouse. 

All limbs were moving, his head was back and moving from side to
side.  The onset was not witnessed, but this seems more akin to
his generalized events and his family feel convinced owing to
only being out of the room briefly and there being a food bolus
in his mouth.  They called EMS, lay him on his side - he ejected
the bolus.  EMS took him to ___ after
discussion with our epilepsy service where he was given 1 mg
Ativan then transferred to ___.  

At ___ he is sleepy and his mother noted that his urine here
was green and cloudy.  Neurology was consulted for readmission 
to
our epilepsy service, as suggested by Dr. ___.

 

He has seizures of three broad types:
1. Focal events.  These are characterized by a visage of
perplexity, then left head version, sometimes with prolonged
staring.  These will sometimes generalize.  The last witnessed
seizure of this type was on the ___.  These are his
most common seizure. 
2. He apparently has generalized events without focal signs or
staring to begin, as perhaps with today.  For this he has
previously had an aura, but this is not typical.  The last
generalized seizure was before Keppra was stopped in ___ (per Dr. ___, but his mother today is not sure). 
This was as a cluster of three seizures with two unwitnessed and
of unclear semiology.
3. There may also be some subclinical events as witnessed during
the first of his ___ admission.  

Medications that he has taken and failed:
Keppra - Mother and Father did not like - felt that mood worse
Dilantin - Allergy - rash
Presently taking:
Zonisamide (present), lacosamide (present), oxcarbazepine.
Has not tried: 
Depakote, Lamictal, Carbamazepine, per his mother's recollection
(prior notes not checked). 

 
Past Medical History:
He has hypercholesterolemia as well as a history of the above
head injury - he was driving, lost control, spun and had an open
head injury with a wooden pole directly injuring the left
hemisphere, damaging the left temporal, posterior frontal,
parietal lobe, as well as basal ganglia and dorsal thalamus. 
Seizures began about one year later. 

1. MVA s/p craniotomy in ___ and skull repair in ___
2. Epilepsy
3. Hypercholesterolemia
 
Social History:
___
Family History:
Mother ___ yo, hypercholesterolemia, htn, asthma.
Father ___ yo, hypercholetsrolemia, htn, DM. 
No history of epilepsy

 
Physical Exam:
Admission Exam:
Vitals: 98.6 F, 74 BPM, 131/77 mmHg, 16 breaths, 99% RA

He is lying on his right side in his pajamas sleeping.  He only
stirs to very loud voice or moving his hands or legs, etc.  He 
is
well groomed with short cropped hair.  His mouth is moist, there
is no discharge around nose and ears appear normal.  His lung
sounds are vesicular laterally and his heart sounds dual without
murmur.  His abdomen is soft and non-tender and bowel sounds are
present.  

He is sleeping, but makes good eye contact on waking and closes
his eyes again, despite stimulation of hands after about ___
seconds.  He says, in his typical dysarthric voice, that he is
"Fine." when asked.  He said nothing else.  He blinks to threat
from both sides.  

His pupils are symmetrical and reactive, ~ 5 - 3 mm.  Eyes are
conjugate and follow the examiner to both sides.  The face is
near symmetric with increased excursion of the mouth on the left
when showing his teeth.  His palate and tongue are midline and
shrug full.  

He could not be coached to participate in examination, but moves
both arms and grimaces to gentle nail squeeze and looks annoyed
to foot tickle bilaterally.  His right arm is straight, extensor
and quite spastic, his left arm is supple, his right leg is also
spastic with clonus at the ankle - not now sustained as before,
perhaps given Ativan.  Reflexes are brisk on the right,
particularly in the leg, with an upgoing toe on the right and
downgoing on the left. 

Discharge Exam:
Vitals: 97.7 F, 74 BPM, 96/52 mmHg, 16 breaths, 100% RA
___: non toxic appearance
CV: RRR
Resp: CTAB
Skin: no rash

Neuro:
MS: awake, alert, understands and follows commands, expressive 
apahsia with single word answers.
CN: R facial droop, PERRL, EOMI
Motor: R spastic hemi RUE>RLE
Gait: at baseline

 
Pertinent Results:
ADMISSION LABS:
___ 04:45PM BLOOD WBC-9.2# RBC-4.26* Hgb-14.9 Hct-43.7 
MCV-103* MCH-34.9* MCHC-34.0 RDW-11.8 Plt ___
___ 10:50AM BLOOD WBC-6.3 RBC-4.84 Hgb-16.6 Hct-49.5 
MCV-102* MCH-34.4* MCHC-33.6 RDW-11.7 Plt ___
___ 04:45PM BLOOD Neuts-88.3* Lymphs-6.9* Monos-4.3 Eos-0.2 
Baso-0.4
___ 04:45PM BLOOD Plt ___
___ 04:45PM BLOOD Glucose-117* UreaN-9 Creat-0.7 Na-137 
K-3.9 Cl-104 HCO3-26 AnGap-11
___ 10:50AM BLOOD Glucose-106* UreaN-10 Creat-0.9 Na-140 
K-4.0 Cl-104 HCO3-20* AnGap-20
___ 05:55AM BLOOD ALT-26 AST-16
___ 04:45PM BLOOD Calcium-9.3 Phos-2.2* Mg-2.1
___ 04:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

DISCHARGE LABS:
___ 05:50AM BLOOD WBC-3.8* RBC-4.21* Hgb-14.6 Hct-43.9 
MCV-105* MCH-34.6* MCHC-33.1 RDW-11.5 Plt ___
___ 05:50AM BLOOD Glucose-88 UreaN-12 Creat-0.8 Na-139 
K-4.3 Cl-104 HCO3-26 AnGap-13
___ 05:50AM BLOOD ALT-22 AST-19
___ 05:50AM BLOOD Calcium-9.5 Phos-4.0 Mg-2.2

OTHER:
___ 05:55AM BLOOD ___ Folate-9.1
___ 05:55AM BLOOD TSH-1.3
___ 05:55AM BLOOD 25VitD-13*

EEG ___:
IMPRESSION: This is an abnormal continuous VEEG recording due to 
continuous focal delta slowing in the left frontal region which, 
at times, become rhythmic with embedded sharp waves, as above. 
These findings are consistent with focal cortical dysfunction 
and potential epileptogenic area. There is accentuated moderate 
beta activity in the left fronto-central areas indicative of a 
breach artifact due to skull defect. The background activity is 
slow suggestive of mild encephalopathy. There are no clinical or 
electrographic seizures captured during this study. 

EEG ___:
IMPRESSION: This is an abnormal continuous VEEG recording due to 
continuous focal slowing and accentuated moderate beta activity 
in the left frontal area indicative of a focal cortical and 
subcortical dysfunction with a breach artifact due to skull 
defect. The background activity is slow suggestive of mild 
encephalopathy. There are frequent prolonged runs of high 
amplitude rhythmic delta activity in the left frontal region, 
often with embedded left frontal sharp waves, (LRDA+S) 
indicative of high focal epileptogenicity. There are no definite 
clinical or electrographic seizures captured during this study. 
An abnormal cardiac rhythm with apparent P waves but alternating 
morphology wide QRS complex is frequently seen on one lead EKG. 
A further evaluation with 12 lead EKG will help in confirming 
the diagnosis. 

EEG ___: IMPRESSION: This is an abnormal 24 continuous EEG 
recording due to 30 electrographic seizures captured arising 
from left frontal lateralized rhythmic delta activity (LRDA) as 
noted above. There are frequent high amplitude rhythmic delta 
activity, often sharply contoured in the left frontal region, 
often with embedded left frontal sharp waves, (LRDA+S) 
indicative of high focal epileptogenicity. The background is 
disorganized and slow with additional continuous focal slowing 
and accentuated moderate beta activity in the left frontal area. 
These findings are indicative of a mild to moderate 
encephalopathy with additional, focal cerebral dysfunction with 
a breach artifact due to skull defect in the left frontal area. 
Abnormal cardiac rhythm with frequently changing QRS morphology 
likely due to intermittent right bundle branch block is seen on 
one lead EKG.

EEG ___: IMPRESSION: This is an abnormal video-EEG 
monitoring session because of frequent (16) electrographic 
seizures arising from the left frontal region. These have no 
clear clinical correlate on video. The seizures arise from an 
area of continuous focal slowing and breach artifact in the left 
frontal region. These findings are indicative of an 
epileptogenic focal structural lesion in the left frontal 
region. Background activity is slow bilaterally, much worse on 
the left. The electrographic seizures stop after administration 
of intravenous lorazepam around 2 ___. Compared to the prior 
day's recording, electrographic seizures cease after 
approximately 2 ___, but there is no other significant change. 
Incidental note is made of intermittent right bundle branch 
block in a single EKG channel. 

EEG ___: report pending
 

CXR: The lungs are clear without infiltrate.  There is some 
crowding at 
the bases, but no definite consolidation.  There is no effusion. 
 Cardiac and mediastinal silhouettes are normal. 

ECG: Sinus rhythm. Right bundle-branch block. Compared to the 
previous tracing  of ___ right bundle-branch block is seen 
on the current tracing which may reflect a higher heart rate. 
Other findings are similar. 

TTE:
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 
IMPRESSION: Normal global and regional biventricular systolic 
function. No clinically-significant valvular disease seen.  

Ictal SPECT:
IMPRESSION: Greater perfusion in the right temporal lobe. 
Suggest correlation with an interictal study. 

 
Brief Hospital Course:
The patient has a history of refractory epilepsy due to 
traumatic brain injury and was admitted because of a prolonged 
seizure. No clear trigger was identified, his infectious workup 
regarding labs, urine analysis and chest xray was normal. 

#Neuro:
His initial EEG recording was indicative of high focal 
epileptogenicity. We initially started him on valpoic acid and 
tapered off the lacosamide, since it had recently been started 
and not provided good seizure control. Valproic acids was 
increased to 750mg BID. Despite high valproic acids levels >90, 
this not only failed to improve his EEG, but increased rhythmic 
delta activity and made the patient less attentive, which was 
suspicious for subclinical seizures. We then switched valproic 
acid to clobazam, which improved his EEG and his ___ 
condition. His clobazam dose should be increased to ___ on 
___.

#CV
A RBBB was noted on his ECG, which had intermittently been 
present on prior ECGs. Cardiology was consulted and recommended 
a TTE to exclude a structural abnormality, which was normal. 
They felt the RBBB was likely rate-dependent and does not 
reequire any further workup or intervention.
 
#ID
CXR without infiltrates
UA normal

#Endo
Vitamin D 13, started on vitamin D substitution 50,000IE twice 
weekly for 8 weeks, then continue with 1000IE daily
 
Medications on Admission:
1. Loratadine *NF* 10 mg Oral QAM Reason for Ordering: Wish to 
maintain preadmission medication while hospitalized, as there is 
no acceptable substitute drug product available on formulary.
2. Oxcarbazepine 1500 mg PO BID 
3. Lacosamide 150mg BID
4. Zonisamide 200-600 mg PO 
5. Simvastatin 40 mg PO DAILY 
6. Fluoxetine 40 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID:PRN constipation 

 
Discharge Medications:
1. Loratadine *NF* 10 mg Oral QAM Reason for Ordering: Wish to 
maintain preadmission medication while hospitalized, as there is 
no acceptable substitute drug product available on formulary.
2. Oxcarbazepine 1500 mg PO BID 
3. Vitamin D 50,000 UNIT PO 2X/WEEK (MO,TH) Duration: 7 Weeks 
RX *ergocalciferol (vitamin D2) [Vitamin D2] 50,000 unit 1 
capsule(s) by mouth twice per week Disp #*14 Capsule Refills:*0
4. Zonisamide 600 mg PO HS 
5. Simvastatin 40 mg PO DAILY 
6. Fluoxetine 40 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID:PRN constipation 
8. Clobazam 10 mg PO BID 
RX *clobazam [Onfi] 10 mg see instructions tablet(s) by mouth 
twice a day Disp #*90 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary: breakthrough seizures, intractable partial epilepsy, 
345.41
secondary: refractory epilepsy, posttraumatic R spastic 
hemiparesis, low vitamin D levels

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear ___, 
you were admitted because of seizures. We initially started you 
on valproic acid (Depakote), which made you less responsive and 
your EEG looked worse. We then started clobazam and tapered down 
the valproic acid, after which your condition improved. We 
stopped the lacosamide (Vimpat), which had been started recently 
and did provide adequate seizure control.
Your antiepileptic medications are now as follows:
START clobazam 10mg BID, should be increased to 10mg-20mg on 
___
KEEP zonisamide 600mg qHS
KEEP oxcarbazepine 1500mg BID 
In addition, your vitamin D levels were found to be low, which 
increases your risk of having a fracture. We started a 
supplementation with:
Vitamin D 50,000IE twice per week for another 7 weeks, then 
continue with Vitamin D 1000IE daily
It was a pleasure taking care of you during this 
hospitalization.
 
Followup Instructions:
___